US04011218
1-DIMETHYLCARBAMOYL-3,5-DIPYRAZINYL-1,2,4-TRIAZOLE
To 2.25 g. (0.01 mole) of 3,5-dipyrazinyl-1,2,4-triazole in 200 ml. of tetrahydrofuran is added 57% sodium hydride (.42 g., 0.01 mole). The reaction mixture is heated at reflux for one hour, cooled, and a solution of dimethylcarbamoyl chloride (1 gram, 0.01 mole) in 10 ml. of tetrahydrofuran is added dropwise. The reaction mixture is then refluxed 4 hours, cooled, filtered and concentrated to a solid. After recrystallization from benzene 1-dimethylcarbamoyl-3,5-dipyrazinyl-1,2,4-triazole is obtained.

reactant | 3,5-dipyrazinyl-1,2,4-triazole | 0.01 mole | N1=C(C=NC=C1)C1=NNC(=N1)C1=NC=CN=C1 | C10H7N7
reactant | sodium hydride | 0.01 mole, .42 g | [H-].[Na+]
reactant | dimethylcarbamoyl chloride | 0.01 mole, 1 gram | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-DIMETHYLCARBAMOYL-3,5-DIPYRAZINYL-1,2,4-TRIAZOLE | CN(C(=O)N1N=C(N=C1C1=NC=CN=C1)C1=NC=CN=C1)C | C13H12N8O
